US05298520
4. N-tert-Butyloxycarbonyl-2-(5-tetrazol-5-ylmethyl-1H-indol-3-yl)ethylamine
To a stirred suspension of 2-(5-tetrazol-5-ylmethyl-1H-indol-3-yl)ethylamine (1.76 g, 7.27 mmol) in dry CH2Cl2 (40 ml) was added triethylamine (1.5 g, 14.9 mmol) and (BOC)2O (1.9 g, 7.3 mmol) and the mixture stirred for 16 h. The solvent was removed under vacuum and the residue chromatographed on silica-gel eluting with EtOH/Et2O/H2O/NH3 (20:60:8:1) to give the title product (1.6 g, 64%); δ (360 MHz, CD3OD) 1.41 (9H, s, 3 of CH3); 2.87 (2H, t, J=7.4 Hz, CH2); 3.30 (2H, t, J=7.4 Hz, CH2); 4.32 (2H, s, CH2); 6.99 (1H, d, J=8.3 Hz, Ar-H); 7.04 (1H, s, Ar-H); 7.26 (1H, d, J=8.3 Hz, Ar-H); 7.49 (1H, s, Ar-H).

reactant | 2-(5-tetrazol-5-ylmethyl-1H-indol-3-yl)ethylamine | 7.27 mmol, 1.76 g | N1N=NN=C1CC=1C=C2C(=CNC2=CC1)CCN | C12H14N6
reactant | triethylamine | 14.9 mmol, 1.5 g | C(C)N(CC)CC | C6H15N
reactant | (BOC)2O | 7.3 mmol, 1.9 g | O(C(=O)OC(C)(C)C)C(=O)OC(C)(C)C | C10H18O5
solvent | CH2Cl2 | 40 ml | C(Cl)Cl | CH2Cl2
product | N-tert-Butyloxycarbonyl-2-(5-tetrazol-5-ylmethyl-1H-indol-3-yl)ethylamine | 1.6 g, 64% | C(C)(C)(C)OC(=O)NCCC1=CNC2=CC=C(C=C12)CC1=NN=NN1 | C17H22N6O2
